US05244816
A 0.1 mg/ml solution of DTPA anhydride in dry chloroform was prepared and an aliquot containing the desired quantity of DTPA was added to a reaction vessel. The chloroform was removed by evaporation with nitrogen gas at room temperature. A pH 7.0 solution of antibody (approximately 0.5 mg) in 0.05M bicarbonate buffer was added to said reaction vessel to produce a 7:1 molar ratio of anhydride to protein. The solution was incubated with shaking for one minute and the coupled antibody was recovered by passage over a Sephadex G-50 column.

reactant | DTPA | C(CN(CC(=O)O)CC(=O)O)N(CCN(CC(=O)O)CC(=O)O)CC(=O)O | C14H23N3O10
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | DTPA anhydride | C1C(=O)OC(=O)CN1CCN(CCN2CC(=O)OC(=O)C2)CC(=O)O | C14H19N3O8
